US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene and Ethyl-(2-hydroxy-ethyl)-amine were converted to yield 2-({4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-ethyl-amino)-ethanol, MS: 462 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C19H18Br2OS
reactant | Ethyl-(2-hydroxy-ethyl)-amine | C(C)NCCO | C4H11NO
product | 2-({4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-ethyl-amino)-ethanol | BrC1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C=C2)OCCCCN(CCO)CC | C23H28BrNO2S
